US04605657
Preparation of 2-mercapto-3-phenyl-4(3H)-quinazolinone
In a 500 ml, three-neck round bottom flask equipped with magnetic stirrer, 25 g (0.17 moles) methyl anthranilate in 100 ml methylene chloride was placed. Into that mixture 23.0 g (0.17 moles) phenyl isothiocyanate in 50 ml methylene chloride was dropped in. The reaction mixture was stirred overnight at ambient temperature. The reaction mixture was refluxed at 40° C. for one hour. Ether (about 50 ml) was added; a precipitate formed which was removed by suction filtration to give the above-identified product.

reactant | methyl anthranilate | 0.17 moles, 25 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | phenyl isothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | Ether | about 50 ml | CCOCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
